US09227969B2
Step-2.5: Synthesis of tert-butyl 4-azido-3-fluoropiperidine-1-carboxylate, 2.6
Sodium azide (68.2 g, 1.050 mol) was added to a solution of tert-butyl 3-fluoro-4-((methylsulfonyl)oxy)piperidine-1-carboxylate, 2.5 (78 g, 0.262 mol) in DMF (620 mL). The reaction mixture was heated at 100° C. for overnight. The mixture was cooled and diluted with 500 mL) water and methylene chloride (500 mL). After separation, the organic layer was washed with brine, dried over Na2SO4, filtered and concentrated in vacuum to provide the desired product tert-butyl 4-azido-3-fluoropiperidine-1-carboxylate, 2.6 (62 g, 96% yield), which was used for the next reaction without any purification.

reactant | Sodium azide | 1.050 mol, 68.2 g | [N-]=[N+]=[N-].[Na+]
reactant | tert-butyl 3-fluoro-4-((methylsulfonyl)oxy)piperidine-1-carboxylate | FC1CN(CCC1OS(=O)(=O)C)C(=O)OC(C)(C)C | C11H20FNO5S
solvent | DMF | 620 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-azido-3-fluoropiperidine-1-carboxylate | N(=[N+]=[N-])C1C(CN(CC1)C(=O)OC(C)(C)C)F | C10H17FN4O2
